simulator lang=spectre
global 0

ahdl_include "../submission/calibration_deadband_controller.va"

V_fb_clk (clk 0) vsource type=pulse val0=0 val1=0.9 period=1.6n width=0.7n rise=40p fall=40p
V_fb_rst (rst 0) vsource type=pwl wave=[0 0.9 2.4n 0.9 2.5n 0 64n 0 64.1n 0.9 67n 0.9 67.1n 0 72n 0]
V_fb_err (vin 0) vsource type=pwl wave=[0 0.45 7.9n 0.45 8n 0.49 13.9n 0.49 14n 0.72 27.9n 0.72 28n 0.46 33.9n 0.46 34n 0.20 47.9n 0.20 48n 0.44 55.9n 0.44 56n 0.75 63.9n 0.75 64n 0.45 72n 0.45]
XFB_DUT (clk rst vin out metric) calibration_deadband_controller

tran tran stop=72n maxstep=0.35n
save clk rst vin out metric
